US07329658B2
Preparation of (1S,4S)-5-[7-(2-Chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylic Acid tert-Butyl Ester (8A-1)
To a mixture of 2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (78 mg, 0.40 mmol) and diisopropylethylamine (0.094 ml, 0.52 mmol) in methylene chloride (2.5 ml) was added 4-chloro-7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine (I-2A-1b; 135 mg, 0.35 mmol), portionwise. After stirring overnight, the reaction was concentrated, in vacuo, to ½ volume and then purified on a Biotage™ Flash 12M column using 0-3% ethyl acetate in methylene chloride to afford 8A-1 (200 mg, quantitative) as a solid: +APcI MS (M+1) 551.2; 1H NMR (400 MHz, CD3OD) δ 7.50-7.34 (m, 4H), 7.32 (d, J=8.3 Hz, 2H), 7.21 (d, J=8.3 Hz, 2H), 4.60 (br s, 1H), 2.46 (s, 3H), 2.10-1.99 (br m, 2H), 1.50-1.40 (m, 9H).

reactant | 2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.40 mmol, 78 mg | C(C)(C)(C)OC(=O)N1C2CNC(C1)C2 | C10H18N2O2
reactant | diisopropylethylamine | 0.52 mmol, 0.094 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-chloro-7-(2-chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazine | 0.35 mmol, 135 mg | ClC1=NC(=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)C | C18H11Cl3N4
solvent | methylene chloride | 2.5 ml | C(Cl)Cl | CH2Cl2
product | (1S,4S)-5-[7-(2-Chlorophenyl)-8-(4-chlorophenyl)-2-methylpyrazolo[1,5-a][1,3,5]triazin-4-yl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylic Acid tert-Butyl Ester | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)C2=NC(=NC=1N2N=C(C1C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)C | C28H28Cl2N6O2
